US04692447
Zinc dust (5.3 g) is added in portions to a stirred suspension of the 7-acetylamino-1-oxo-benzocyclohepten-2-yl-acetic acid (6 g) in 80% aqueous acetic acid (70 ml), warmed at 100° C.; the stirring is continued for 1 hour. The inorganic materials are removed by filtration and washed with warm 80% aqueous acetic acid (70 ml).The eluates are collected and acetic acid is distilled off under vacuum. The residual aqueous phase is extracted with ethyl ether, the combined extracts are dried on Na2SO4 and the solvents are evaporated. The crude material is triturated with hexane-ethyl ether to give 7-acetylamino-1-oxo-benzocycloheptan-2-yl-acetic acid (5.1 g) m.p. 198° C.

reactant | 7-acetylamino-1-oxo-benzocyclohepten-2-yl-acetic acid | 6 g | C(C)(=O)NC=1C=CC=2C(=CC1)C(C(=CC2)CC(=O)O)=O | C15H13NO4
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 5.3 g | [Zn] | Zn
product | 7-acetylamino-1-oxo-benzocycloheptan-2-yl-acetic acid | 5.1 g | C(C)(=O)NC1CCC2=C(CC1)C(C(C=C2)CC(=O)O)=O | C15H19NO4
